US05028629
Preparation of 2-(methylthio)-5-n-hexyl-N-hydroxy -N-methylcinnamamide.
To a solution of 2-(3-n-hexylphenyl)-4,4-dimethyl-oxazoline (21 g, 0.086 mmol) in 200 ml of dry THF is added dropwise, sec-butyllithium (73 ml) at a temperature of -40° C. (dry ice/acetonitrile bath). After stirring one hour at -40° C. a solution of dimethyldisulfide (8.18 g, 0.087 mmol) in THF (7.82 ml) is then added dropwise to the reaction mixture and stirred for 2 hours while keeping the temperature at -40° C. The reaction mixture is poured into saturated NH4Cl and then extracted with ethyl acetate. The extracts are washed with water and then brine, dried over MgSO4 and concentrated to afford the subtitle compound.

reactant | 2-(3-n-hexylphenyl)-4,4-dimethyl-oxazoline | 0.086 mmol, 21 g | C(CCCCC)C=1C=C(C=CC1)C=1OCC(N1)(C)C | C17H25NO
reactant | sec-butyllithium | 73 ml | C(C)(CC)[Li]
reactant | dry ice acetonitrile | C(=O)=O.C(C)#N
reactant | dimethyldisulfide | 0.087 mmol, 8.18 g | CSSC | C2H6S2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | THF | 7.82 ml | C1CCOC1 | C4H8O
product | 2-(methylthio)-5-n-hexyl-N-hydroxy -N-methylcinnamamide | CSC1=C(C=CC(=O)N(C)O)C=C(C=C1)CCCCCC | C17H25NO2S
